US06384051B1
A mixture of 6.0 g (16.8 mmol) of 6-nitro-4-(3-trifluoromethylphenylamino)quinoline-3-carbonitrile and 18.9 g (83.8 mmol) of SnCl2.2H2O in 240 mL of EtOH was refluxed under N2 for 1 hr. Ice water was added followed by NaHCO3 to pH 8. The mixture was stirred for 2 hr and then extracted with CHCl3. Darco was added and the extracts were filtered through anhyd MgSO4 and evaporated. The residue was filtered through silica gel with 10% MeOH in CHCl3. Solvent evaporation and drying in vacuo (40° C.) gave 4.87 g of 6-amino-4-(3-trifluoromethylphenylamino)quinoline-3-carbonitrile as a brown solid: mass spectrum (electrospray, m/e): M+H 329.1.

reactant | 6-nitro-4-(3-trifluoromethylphenylamino)quinoline-3-carbonitrile | 16.8 mmol, 6.0 g | [N+](=O)([O-])C=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(F)(F)F | C17H9F3N4O2
reactant | SnCl2.2H2O | 83.8 mmol, 18.9 g | O.O.Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 240 mL | CCO | C2H6O
product | 6-amino-4-(3-trifluoromethylphenylamino)quinoline-3-carbonitrile | 4.87 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(F)(F)F | C17H11F3N4
